US05434168
A mixture of 117.1 g of 3,4-difluorophenol, 185.5 g of chloromethyloxirane, 125 g of potassium carbonate and 500 ml of 2-propanone was stirred for 48 hours at reflux temperature. The reaction mixture was evaporated and the residue was taken up in dichloromethane. The whole was washed successively with water, NaOH (aq.) (2x) and water, and was then dried, filtered and evaporated. The residue was distilled (13.3 Pa, 58° C.), yielding 90.4 g (54.0%) of [(3,4-difluorophenoxy)methyl]oxirane (interm. 2).

reactant | 3,4-difluorophenol | 117.1 g | FC=1C=C(C=CC1F)O | C6H4F2O
reactant | chloromethyloxirane | 185.5 g | ClCC1OC1 | C3H5ClO
reactant | potassium carbonate | 125 g | C([O-])([O-])=O.[K+].[K+]
solvent | 2-propanone | 500 ml | CC(C)=O | C3H6O
product | [(3,4-difluorophenoxy)methyl]oxirane | 90.4 g, 54.0% | FC=1C=C(OCC2OC2)C=CC1F | C9H8F2O2
